************************************************************************
* auCdl Netlist:
* 
* Library Name:  Eight_Bit_CSL_Adder
* Top Cell Name: inverter
* View Name:     schematic
* Netlisted on:  Dec 23 17:20:03 2023
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Eight_Bit_CSL_Adder
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter GND VDD VIN VOUT
*.PININFO VIN:I VOUT:O GND:B VDD:B
MM0 VOUT VIN VDD VDD PMOS_VTL W=400n L=50n m=1
MM1 VOUT VIN GND GND NMOS_VTL W=270.0n L=50n m=1
.ENDS

